US08541575B2
1-(3-{1-(4-methoxybenzyl)-4-[2-(methylamino)pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-3-[4-(trifluoromethyl)phenyl]urea
250 mg (0.65 mmol) of 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-methylpyridin-2-amine were dissolved in 10 ml of dry dimethylformamide and 92 μl of p-trifluoromethyl-phenylisocyanate were added. The reaction was stirred at room temperature overnight, poured into aqueous sodium hydrogenocarbonate and extracted with dichloromethane. The organic phase was then dried over sodium sulphate and evaporated. The residue was purified by flash-chromatography on a silica gel column CH2C12-CH3COCH3; from 9/1 to 8/2), giving 234 mg (63%) of the title compound.

reactant | 4-[3-(3-aminophenyl)-1-(4-methoxybenzyl)-1H-pyrazol-4-yl]-N-methylpyridin-2-amine | 0.65 mmol, 250 mg | NC=1C=C(C=CC1)C1=NN(C=C1C1=CC(=NC=C1)NC)CC1=CC=C(C=C1)OC | C23H23N5O
reactant | p-trifluoromethyl-phenylisocyanate | 92 μl | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | sodium | [Na] | Na
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-{1-(4-methoxybenzyl)-4-[2-(methylamino)pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-3-[4-(trifluoromethyl)phenyl]urea | 234 mg, 63% | COC1=CC=C(CN2N=C(C(=C2)C2=CC(=NC=C2)NC)C=2C=C(C=CC2)NC(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1 | C31H27F3N6O2
